US07893056B2
5-Fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone (0.1958 g, 0.685 mmol) and (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid (0.355 g, 0.823 mmol) were dissolved in DMF (5 mL). NMM (0.30 mL, 2.7286 mmol) was added, followed by HOAt (0.112 g, 0.824 mmol) and EDC (0.157 g, 0.819 mmol). After stirring overnight, the reaction mixture was purified by RP-HPLC to provide [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide as an orange solid (0.2197 g, 57%). LCMS: (M+H)+=568.2.

reactant | 5-Fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone | 0.685 mmol, 0.1958 g | FC=1C(N=C(NC1NCC=1SC=CN1)SC)=NN | C9H11FN6S2
reactant | (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid | 0.823 mmol, 0.355 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OC1OCCCC1)C=O | C15H25NO5
reactant | NMM | 2.7286 mmol, 0.30 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.824 mmol, 0.112 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.819 mmol, 0.157 g
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.2197 g, 57% | C1(CCCC1)C[C@H](CN(C=O)OC1OCCCC1)C(=O)NNC1=NC(=NC(=C1F)NCC=1SC=CN1)SC | C24H34FN7O4S2
